US05834463
(3aR*,10aS*)-9-Benzyl-4-((N,N-dibenzylamino)acetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one
A solution of (3aR*,10aS*)-9-benzyl-4-(chloroacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one (1.0 g, 2.7 mmol) and dibenzylamine (5.36 g, 27.1 mmol) in 1,2-dichloroethane (30 mL) was refluxed for 17 hours, to which was added a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with dichloromethane. The extract solution was washed with water and dried, followed by distilling off the solvent. The residue was purified by silica-gel column chromatography (ethyl acetate-hexane 1:1) to give 0.40 g (yield 28%) as an oily product.

reactant | (3aR*,10aS*)-9-benzyl-4-(chloroacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one | 2.7 mmol, 1.0 g | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@@H](C1=O)CCC3)C(CCl)=O)C=CC=C2 | C21H21ClN2O2
reactant | dibenzylamine | 27.1 mmol, 5.36 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | (3aR*,10aS*)-9-Benzyl-4-((N,N-dibenzylamino)acetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one | yield 28% | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@@H](C1=O)CCC3)C(CN(CC3=CC=CC=C3)CC3=CC=CC=C3)=O)C=CC=C2 | C35H35N3O2
